US08022214B2
Step b. Preparation of anthracen-9-yl-methylamine/9-aminomethylanthracene
To a solution of 9-azidomethyl-anthracene (8.47 g, 36.3 mmol) in tetrahydrofuran (THF, 60 mL) was added triphenylphosphine (10.48 g, 39.94 mmol) under a nitrogen atmosphere at 0° C. and the mixture was stirred at room temperature for 2 hours. Water (1.2 mL) was added and the resulting mixture was stirred for 12 hours. Ether (400 mL) was added and the solution cooled to 0° C. HCl (10%, 100 mL) was added slowly and the amine salt was collected by filtration and suspended in ethyl acetate (EtOAc, 600 mL). After cooling to 0° C., the solution was made basic by slow addition of concentrated ammonium hydroxide (NH4OH) and the layers were separated. The aqueous layer was extracted with EtOAc and the combined organic layers were washed with water, dried over MgSO4 and concentrated to give the product as yellow crystals (6.64 g, 88% yield). 1H NMR (CDCl3) δ 8.41 (1H, s), 8.36 (2H, d), 8.04 (2H, d), 7.56 (2H, dd), 7.49 (2H, dd), 4.84 (2H, s), 1.64 (1H, br-s).

reactant | 9-azidomethyl-anthracene | 36.3 mmol, 8.47 g | N(=[N+]=[N-])CC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11N3
reactant | triphenylphosphine | 39.94 mmol, 10.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | 1.2 mL | O | H2O
reactant | HCl | 100 mL | Cl | ClH
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | Ether | 400 mL | CCOCC | C4H10O
product | anthracen-9-yl-methylamine 9-aminomethylanthracene | 6.64 g, 88% yield | C1=CC=CC2=CC3=CC=CC=C3C(=C12)NC.NCC=1C2=CC=CC=C2C=C2C=CC=CC12 | 2C15H13N
